US08076349B2
To 527 mg (2.22 mmol) of 1-isopropyl-3-methyl-bicyclo[3.2.1]-1β,3,8-triaza-spiro[4.5]dodecan-2-one in DCE (15 mL) was added 611 mg (2.22 mmol) of (3R,4S)-3-formyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester in DCE (10 mL) and stirred for 2 hours at room temperature. Sodium triacetoxyborohydride (706 mg, 3.33 mmol) was then added and the reaction mixture stirred overnight at room temperature. The reaction mixture was diluted with DCM, the organic layer washed with sodium bicarbonate, and then dried over sodium sulfate. The organic layer was concentrated and purified by flash silica gel chromatography eluting with methanol:DCM (0-10%) to give 612 mg (56%) of (3S,4S)-3-[1-isopropyl-3-methyl-bicyclo[3.2.1]-2-oxo-1β,3,8-triaza-spiro[4.5]dodec-8-ylmethyl]-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester as a white foam.

reactant | (3R,4S)-3-formyl-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.22 mmol, 611 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)C=O | C16H21NO3
reactant | Sodium triacetoxyborohydride | 3.33 mmol, 706 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(C1)C1=CC=CC=C1 | C15H21NO2
